US05480894
(4) 3-Hydroxy-2-methyl-1-(2-pivaloyloxyethyl)pyridin-4-one
3-Benzyloxy-2-methyl-1-(2-pivaloyloxyethyl)pyridin-4-one (1.08 g, 0.003 mol) was hydrogenated over Pd/C catalyst in dimethylformamide (30 ml) with stirring for 24 hours. The solution was filtered and rotary evaporated to dryness to provide a crude product (1.08 g) which was flash chromatographed (silica gel, Kieselgel 60,7734, 20 mm×300 mm column, eluting with ethyl acetate:ethanol, 1:1 v/v). Rotary evaporation in vacuo at 60° C. provided the title compound in 77.46% yield as orange crystals, m.p. 147°-149° C.; νmax 1580, 1625, 1725, 2850 cm-1 ; δ(d6 dimethylsulphoxide) 1.1 (9H,s), 2.35 (3H,s), 4.30 (4H,s), 4.4 (1H,s), 6.15 (1H,d), 7.55 (1H,d).

reactant | 3-Benzyloxy-2-methyl-1-(2-pivaloyloxyethyl)pyridin-4-one | 0.003 mol, 1.08 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCOC(C(C)(C)C)=O)C | C20H25NO4
catalyst | Pd/C | [Pd] | Pd
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Hydroxy-2-methyl-1-(2-pivaloyloxyethyl)pyridin-4-one | 77.46% yield | OC1=C(N(C=CC1=O)CCOC(C(C)(C)C)=O)C | C13H19NO4
